US04777252
(A) 6,7-Dimethoxy-2,3-quinolinedicarboxylic acid
A suspension of 26.7 g (80 mmol) of 6,7-dimethoxy-2,3-quinolinedicarboxylic acid, diethyl ester, prepared as described by S. B. Kadin and C. H. Lamphere, J. Org. Chem., 49, 4999 (1984), in 10% sodium hydroxide solution (containing 16 g (400 mmol) of sodium hydroxide) was refluxed for 5 hours. After the filtration of the hot solution, 300 ml of water and subsequently 3N hydrochloric acid were added until the pH reached 1.0. The solids were filtered off by suction, washed thoroughly with water, and dried in vacuo to give 22.4 g of the desired product having a melting point of 264°-266° C.

reactant | 6,7-dimethoxy-2,3-quinolinedicarboxylic acid, diethyl ester | 80 mmol, 26.7 g | COC=1C=C2C=C(C(=NC2=CC1OC)C(=O)OCC)C(=O)OCC | C17H19NO6
reactant | sodium hydroxide | 400 mmol, 16 g | [OH-].[Na+]
reactant | sodium hydroxide | 400 mmol | [OH-].[Na+]
product | 6,7-Dimethoxy-2,3-quinolinedicarboxylic acid | 22.4 g | COC=1C=C2C=C(C(=NC2=CC1OC)C(=O)O)C(=O)O | C13H11NO6
